US07579341B2
A7d) tert-butyl 4-(4-methyl-piperidin-4-yl)-piperazine-1-carboxylate
A suspension of 2.28 g (5.62 mmol) tert-butyl 4-(1-benzyl-4-methyl-piperidin-4-yl)-piperazine-1-carboxylate and 300 mg 10% Pd/C in 50 mL MeOH was hydrogenated for 3 h at 50° C. and 3447 hPa hydrogen pressure. To complete the reaction 0.47 mL conc. HCl were added and the mixture was hydrogenated for another 3 h at 50° C. and 3447 hPa hydrogen pressure. The catalyst was filtered off, the filtrate was evaporated down i. vac., the residue was stirred with diethyl ether, suction filtered and dried.

reactant | tert-butyl 4-(1-benzyl-4-methyl-piperidin-4-yl)-piperazine-1-carboxylate | 5.62 mmol, 2.28 g | C(C1=CC=CC=C1)N1CCC(CC1)(C)N1CCN(CC1)C(=O)OC(C)(C)C | C22H35N3O2
reactant | hydrogen | [H][H] | H2
reactant | HCl | 0.47 mL | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | tert-butyl 4-(4-methyl-piperidin-4-yl)-piperazine-1-carboxylate | CC1(CCNCC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H29N3O2
